US04152516
Methylisocyanate (1.96 milliliters, 0.04 mole) was added dropwise to a thirty (30) milliliter solution of the distilled tetrahydrofuran containing the above mentioned 5-amino-3-methylisothiazole (5.0 grams, 0.04 mole), and then the resulting yellow solution was refluxed for 3 hours, during which time a white precipitate formed. The solution was cooled and filtered, giving 3.73 grams of N-(3-methyl-5-isothiazolyl)-N'-methylurea, also referred to as 3-methyl-5-N-methylureiodisothiazole.

reactant | Methylisocyanate | 0.04 mole, 1.96 milliliters | CN=C=O | C2H3NO
reactant | 5-amino-3-methylisothiazole | 0.04 mole, 5.0 grams | NC1=CC(=NS1)C | C4H6N2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(3-methyl-5-isothiazolyl)-N'-methylurea | 3.73 grams | CC1=NSC(=C1)NC(=O)NC | C6H9N3OS
